US04680300
4.0 g of 1-amino-8(2-naphthyloxy)octane and 3.6 g of 1,3-diphenyl-S-methylisothiourea were heated to 110° C. under a nitrogen atmosphere for 3 hours. The crude product was chromatographically separated from the reaction mixture on a silica gel column with the mobile phase being methylene chloride:methanol:ammonium hydroxide 100:12:1.2 thereby isolating the 1,2-diphenyl-3-[8-(2-naphthyloxy)octyl]guanidine which was converted to the hydrochloride (mp 124°-126°) using the procedure of Example IV.

reactant | 1-amino-8(2-naphthyloxy)octane | 4.0 g | NCCCCCCCCOC1=CC2=CC=CC=C2C=C1 | C18H25NO
reactant | 1,3-diphenyl-S-methylisothiourea | 3.6 g | C1(=CC=CC=C1)NC(SC)=NC1=CC=CC=C1 | C14H14N2S
product | 1,2-diphenyl-3-[8-(2-naphthyloxy)octyl]guanidine | C1(=CC=CC=C1)NC(=NC1=CC=CC=C1)NCCCCCCCCOC1=CC2=CC=CC=C2C=C1 | C31H35N3O
